US07705155B2
Synthesis of (4R,5S)-3-acetyl-4,5-diphenyl-oxazolidin-2-one
To a stirred suspension of 5.100 g (4R,5S)-(+)-cis-4,5-diphenyl-2-oxazolidinone (20.89 mmol) in 102 mL THF, were added 13.65 mL n-butyllithium in hexane (1.5 M, 20.47 mmol, 0.98 eq) at −78° C. during 6 min. The resulting dark red solution was stirred for additional 68 min at −78° C. During this period, the solution became colorless. Stirring was continued for 15 min at −25° C., before it was cooled again to −78° C. A solution of 1.536 mL acetyl chloride (21.31 mmol, 1.02 eq) in 15.3 mL THF was then added within 5 min. After 52 min, the mixture was poured on 510 mL water and the product was extracted three times with 305 mL, in total 915 mL dichloromethane. The combined organic phases were washed with 715 mL aqueous NaHCO3 and with 715 mL brine. The solution was dried over 25 g sodium sulfate (30 min) and filtered. The filter cake was washed with 50 mL dichloromethane. After removal of solvent in a rotary evaporator (40° C., 30 mbar), the crude product (5.899 g, 100% by weight) was obtained as a white solid. Purification was accomplished by recrystallization from 13 mL toluene. The heterogeneous mixture was heated to reflux until a clear solution was obtained, which was then allowed to slowly cool down to room temperature. After two days, the title compound was collected by filtration as white crystals (5.157 g, 18.332 mmol, 88% by weight).

reactant | (4R,5S)-(+)-cis-4,5-diphenyl-2-oxazolidinone | 20.89 mmol, 5.100 g | C1=CC=C(C=C1)[C@@H]2[C@@H](OC(=O)N2)C3=CC=CC=C3 | C15H13NO2
reactant | n-butyllithium | 13.65 mL | C(CCC)[Li]
reactant | hexane | 20.47 mmol, 1.5 M, 0.98 eq | CCCCCC | C6H14
reactant | acetyl chloride | 21.31 mmol, 1.536 mL, 1.02 eq | C(C)(=O)Cl | C2H3ClO
solvent | THF | 102 mL | C1CCOC1 | C4H8O
solvent | THF | 15.3 mL | C1CCOC1 | C4H8O
solvent | water | 510 mL | O | H2O
product | (4R,5S)-3-acetyl-4,5-diphenyl-oxazolidin-2-one | 5.899 g | C(C)(=O)N1C(O[C@H]([C@H]1C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H15NO3
